US04394389
A reaction mixture was prepared containing 15 g. of anhydrous gallic acid, 8 g. of phenol, 4 ml. of phosphorous oxychloride and 200 ml. of anhydrous ether in a round-bottom flask. The mixture was heated to refluxing temperature for about 18 hours. The ether solvent was removed by evaporation. Water was added to the resulting residue and the pH of the aqueous layer adjusted to about 5 by the addition of dilute aqueous sodium hydroxide. Phenyl gallate, being insoluble at pH=5, separated and was extracted with ether. The ether extracts were separated and dried and the ether removed therefrom by evaporation. Recrystallization of the residue yielded phenyl gallate melting at about 190°-191° C.

reactant | gallic acid | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | phenyl gallate | C(C1=CC(O)=C(O)C(O)=C1)(=O)OC1=CC=CC=C1 | C13H10O5
